US04136092
C. Preparation of n-Hexylmelamine
A mixture of 72.8 g. (0.500 mole) of 2,4-diamino-6-chloro-s-triazine, 63.6 g. (0.600 mole) of anhydrous sodium carbonate, and 200 ml. of N,N-dimethylformamide (DMF) was heated over 43 minutes of 124° C. To this was added, over a period of 2.35 hours, a solution of 60.7 g. (0.600 mole) of n-hexylamine in 100 ml. of DMF; temperature was controlled at 122°-127° C. during the addition. The reaction mixture was heated for an additional 19 hours at 124°-125° C., then was filtered hot. The filter cake was washed with 100 ml of hot DMF, and the combined filtrate was cooled and added with stirring to about 5 liters of ice-water. The precipitate was recovered by filtration, reslurried with 3 liters of water, filtered again, washed thoroughly with deionized water, and dried to constant weight in a vacuum oven at 60° C. The yield of n-hexylmelamine, m.p. 115°-117.5° C., was 91.4 g. (87.0%).

reactant | 2,4-diamino-6-chloro-s-triazine | 0.500 mole | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | sodium carbonate | 0.600 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-hexylamine | 0.600 mole | C(CCCCC)N | C6H15N
solvent | DMF | CN(C=O)C | C3H7NO
product | n-Hexylmelamine | C(CCCCC)NC1=NC(=NC(=N1)N)N | C9H18N6
